US08242125B2
3-(tert-Butyl-dimethyl-silanyloxymethyl)-5-trifluoromethyl-phenylamine
To a solution of 3-Amino-5-trifluoromethyl-benzoic acid (2.0 g, 9.76 mmol) in THF (40 mL) at 0° C. is added LiAlH4 in THF (1 M, 39 mL). The mixture is warmed to reflux and stirred for 62 h. The mixture is then cooled to 0° C. and NaF (2.2 g) is added followed by H2O (3.8 mL). The slurry is stirred for 10 minutes and then allowed to warm to rt and stir an additional 40 min. The mixture is filtered and the solid is rinsed with EtOAc and MeOH. The filtrate is concentrated and the crude residue is mixed with imidazole (2.66 g, 39 mmol) and DCM (30 mL) at 0° C. TBSCl (3.5 g, 23.4 mmol) is added and the mixture is stirred at rt for 5 h. The reaction mixture is then diluted with EtOAc, washed with saturated aqueous NaHCO3, brine, and dried over Na2SO4. Concentration provides the title compound that is carried on to next step without further purification. MS (ESI) m/z 306.1 (M+1).

reactant | 3-Amino-5-trifluoromethyl-benzoic acid | 9.76 mmol, 2.0 g | NC=1C=C(C(=O)O)C=C(C1)C(F)(F)F | C8H6F3NO2
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaF | 2.2 g | [F-].[Na+]
reactant | imidazole | 39 mmol, 2.66 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 23.4 mmol, 3.5 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 1 M, 39 mL | C1CCOC1 | C4H8O
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 3.8 mL | O | H2O
product | 3-(tert-Butyl-dimethyl-silanyloxymethyl)-5-trifluoromethyl-phenylamine | C(C)(C)(C)[SiH2]OC(C=1C=C(C=C(C1)C(F)(F)F)N)(C)C | C14H22F3NOSi
